US08492409B2
(5) Synthesis of 1-(3,5-dichloropyridin-2-yl)-3-methyl-1H-pyrazole-5-carbonyl chloride
To a 100 mL flask, 1-(3,5-dichloropyridin-2-yl)-3-methyl-1H-pyrazole-5-carboxylic acid (0.37 g, 1.38 mmol), dichloromethane (10 mL) and oxalyl dichloride (0.35 g, 2.20 mmol) were added. After a drop of N,N-dimethyl formamide was added, a large number of gas was released. After being stirred for overnight at room temperature, the reaction mixture was concentrated under reduced pressure. Then 10 mL toluene was added, and the mixture was concentrated again under reduced pressure to give the product (0.40 g) as yellow oil in 100% yield.

reactant | 1-(3,5-dichloropyridin-2-yl)-3-methyl-1H-pyrazole-5-carboxylic acid | 1.38 mmol, 0.37 g | ClC=1C(=NC=C(C1)Cl)N1N=C(C=C1C(=O)O)C | C10H7Cl2N3O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | oxalyl dichloride | 2.20 mmol, 0.35 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | 1-(3,5-dichloropyridin-2-yl)-3-methyl-1H-pyrazole-5-carbonyl chloride | 0.40 g, 100% yield | ClC=1C(=NC=C(C1)Cl)N1N=C(C=C1C(=O)Cl)C | C10H6Cl3N3O
